### PR TITLE
Instances for dependent function types

### PR DESCRIPTION
**Pull request by Tragicus**
##### Motivation for this change

Generalizes the instances on function types to dependent function types. The same generalization is happening in mathcomp (see https://github.com/math-comp/math-comp/pull/1256) and it needs to be done here first for backwards compatibility.
EDIT: WIP because we are waiting for unification features in Coq that make unifying dependent functions work.

##### Checklist

- [ ] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- [ ] added corresponding documentation in the headers

Reference: [How to document](https://github.com/math-comp/math-comp/wiki/How-to-document)

##### Reminder to reviewers

- Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs)
- Put a milestone if possible
- Check labels

### CODE REVIEW

File: altreals/realseq.v [hunk 1]
```diff
@@ -303,7 +303,7 @@ Lemma ncvgM u v lu lv : ncvg u lu%:E -> ncvg v lv%:E ->
 Proof.
 move=> cu cv; pose a := u \- lu%:S; pose b := v \- lv%:S.
 have eq: (u \* v) =1 (lu * lv)%:S \+ ((lu%:S \* b) \+ (a \* v)).
-  move=> n; rewrite {}/a {}/b /= [u n+_]addrC [(_+_)*(v n)]mulrDl.
+move=> n; rewrite {}/a {}/b /= [u n+_]addrC [(_+_)*(v n)]mulrDl.
```
Comment (affeldt-aist) [inline altreals/realseq.v:306]:
```suggestion
  move=> n; rewrite {}/a {}/b /= [u n+_]addrC [(_+_)*(v n)]mulrDl.
```

File: classical/functions.v [hunk 2]
```diff
@@ -2568,61 +2568,133 @@ Qed.
...
-Program Definition fct_ringMixin (T : pointedType) (M : ringType) :=
-  @GRing.Zmodule_isRing.Build (T -> M) (cst 1) (fun f g => f \* g) _ _ _ _ _ _.
-Next Obligation. by move=> T M f g h; rewrite funeqE=> x /=; rewrite mulrA. Qed.
-Next Obligation. by move=> T M f; rewrite funeqE=> x /=; rewrite mul1r. Qed.
-Next Obligation. by move=> T M f; rewrite funeqE=> x /=; rewrite mulr1. Qed.
-Next Obligation. by move=> T M f g h; rewrite funeqE=> x/=; rewrite mulrDl. Qed.
-Next Obligation. by move=> T M f g h; rewrite funeqE=> x/=; rewrite mulrDr. Qed.
 Next Obligation.
-by move=> T M ; apply/eqP; rewrite funeqE => /(_ point) /eqP; rewrite oner_eq0.
+by move=> T M f g h; apply/functional_extensionality_dep => x /=; rewrite addrA.
```
Comment (affeldt-aist) [inline classical/functions.v:2593]: We have `funext` for non-dependent functional extensionality.
Maybe we should introduce `funext_dep` for uniformity and to save some typing.

File: classical/functions.v [hunk 3]
```diff
@@ -2568,61 +2568,133 @@ Qed.
...
+
+Lemma scale_funE (T : Type) (R : ringType) (M : T -> lmodType R) (k : R) (f : forall t, M t) :
+  k *: f = k \*: f.
+Proof. exact/functional_extensionality_dep. Qed.
+
 Lemma mul_funC (T : Type) {R : comSemiRingType} (f : T -> R) (r : R) :
   r \*o f = r \o* f.
-Proof. by apply/funext => x/=; rewrite mulrC. Qed.
+Proof.
+by apply/funext => x/=; rewrite mulrC. Qed.
```
Comment (affeldt-aist) [inline classical/functions.v:2682]:
```suggestion
Proof. by apply/funext => x/=; rewrite mulrC. Qed.
```

File: theories/derive.v [hunk 4]
```diff
@@ -253,12 +253,12 @@ Lemma derivable_nbhs (f : V -> W) a v :
 Proof.
 move=> df; apply/eqaddoP => _/posnumP[e].
 rewrite -nbhs_nearE nbhs_simpl /= dnbhsE; split; last first.
-  rewrite /at_point opprD -![(_ + _ : _ -> _) _]/(_ + _) scale0r add0r.
+  rewrite /at_point opprD !add_funE !opp_funE/= scale0r add0r.
```
Comment (affeldt-aist) [inline theories/derive.v:256]: This looks indeed a bit better ^_^.

File: theories/derive.v [hunk 5]
```diff
@@ -576,7 +579,8 @@ Qed.
 Lemma differentiable_sum n (f : 'I_n -> V -> W) (x : V) :
   (forall i, differentiable (f i) x) -> differentiable (\sum_(i < n) f i) x.
 Proof.
-by elim/big_ind : _ => // ? ? g h ?; apply: differentiableD; [exact:g|exact:h].
+elim/big_ind : _ => //[_|? ? g h ?]; first exact/(@differentiable_cst _ 0).
+apply: differentiableD; [exact:g|exact:h].
```
Comment (affeldt-aist) [inline theories/derive.v:583]:
```suggestion
by apply: differentiableD; [exact:g|exact:h].
```

File: theories/ftc.v [hunk 6]
```diff
@@ -839,7 +839,8 @@ set f  := fun x => if x == a then r else if x == b then l else F^`() x.
 have fE : {in `]a, b[, F^`() =1 f}.
   by move=> x; rewrite in_itv/= => /andP[ax xb]; rewrite /f gt_eqF// lt_eqF.
 have DPGFE : {in `]a, b[, (- (PG \o F))%R^`() =1 ((G \o F) * (- f))%R}.
-  move=> x /[dup]xab /andP[ax xb]; rewrite derive1_comp //; last first.
+  move=> x /[dup]xab /andP[ax xb].
+  rewrite (derive1_comp (g:=@GRing.opp R)) //; last first.
```
Comment (affeldt-aist) [inline theories/ftc.v:843]: Maybe avoid the `(g:= ...)` syntax if possible.

File: theories/lebesgue_measure.v [hunk 7]
```diff
@@ -1002,7 +1002,9 @@ Qed.
 
 Lemma measurable_funB D f g : measurable_fun D f ->
   measurable_fun D g -> measurable_fun D (f \- g).
-Proof. by move=> ? ?; apply: measurable_funD =>//; exact: measurableT_comp. Qed.
+Proof.
+move=> ? ?; apply: measurable_funD =>//; exact: measurableT_comp.
```
Comment (affeldt-aist) [inline theories/lebesgue_measure.v:1006]:
```suggestion
by move=> ? ?; apply: measurable_funD =>//; exact: measurableT_comp.
```

File: theories/lebesgue_integral.v [hunk 8]
```diff
@@ -251,7 +251,7 @@ Context d (aT : measurableType d) (rT : realType).
 Lemma mfun_subring_closed : subring_closed (@mfun _ _ aT rT).
 Proof.
 split=> [|f g|f g]; rewrite !inE/=.
-- exact: measurable_cst.
+- exact: measurable_cst (1 : rT).
```
Comment (affeldt-aist) [inline theories/lebesgue_integral.v:254]: Mmmhhh... There are now plenty of lemma applications with `blah_cst` lemmas that now require an explicit mention of the constant in question. This looks problematic.

File: theories/derive.v [hunk 9]
```diff
@@ -1324,7 +1331,10 @@ by rewrite [in LHS]mulr_natl exprfctE -mulrSr mulr_natl.
 Qed.
 
 Lemma derivableX f n (x v : V) : derivable f x v -> derivable (f ^+ n) x v.
-Proof. by case: n => [_|n /derivableP]; [rewrite expr0|]. Qed.
+Proof.
+case: n => [_|n /derivableP]; last by [].
+by rewrite expr0; apply/(derivable_cst (1 : R)).
```
Comment (affeldt-aist) [inline theories/derive.v:1336]: Indeed, if I remove the `(1 : R)` type checking does not seem to terminate. Do you know why?

**Review by affeldt-aist — CHANGES_REQUESTED** [review]
What is the justification for the mandatory addition of constants for the application of `blah_cst` lemmas? Do we know where the problem comes from?

**Comment by affeldt-aist** [comment]
I observe that this PS shares similarities with PR https://github.com/math-comp/analysis/pull/1379 while the latter is marked as draft. Maybe you intended this one as well to be a draft?

**Comment by Tragicus** [comment]
> What is the justification for the mandatory addition of constants for the application of `blah_cst` lemmas? Do we know where the problem comes from?

`cst` is not dependent (and can not be), so I can not define the operations on dependent functions using it. Then, when Rocq tries to unify `cst ?c` with `1 : U -> V`, it reduces the problem to `fun=> ?c = fun t :  U => GRing.one ((fun=> V) t)` and then to `?c = GRing.one ((fun=> V) t)`. This fails because `?c` can not use `t` in its instantiation. I believe I have a solution for that, but it needs to be integrated into Coq, so it will take some time, and the impact looks minor according to the CI.

**Comment by Tragicus** [comment]
I extracted this from the other PR and extended it when I realized I needed to generalize things here first. It is ready for review.
